US06096735
To a suspension of 7-chloro-5-methoxycarbonylmethyl-1-(2-methoxy-4-aminobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine (2.6 g) in ethanol (100 ml) are added sodium carbonate (1.5 g), o-xylene dibromide (1.87 g) and sodium iodide (2.42 g), and the mixture is stirred at 60-70° C. for three hours. The mixture is evaporate to remove the solvent, and to the residue is added water, and the mixture is extracted with ethyl acetate. The extract is dried, and evaporate to remove the solvent. The residue is purified by silica gel column chromatography (solvent; ethyl acetate:n-hexane =1:10→1:5) to give 7-chloro-5-methoxycarbonylmethyl-1-[2-methoxy-4-(2-isoindolinyl)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.32 g) as colorless amorphous.

reactant | 7-chloro-5-methoxycarbonylmethyl-1-(2-methoxy-4-aminobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine | 2.6 g | ClC=1C=CC2=C(C(CCCN2C(C2=C(C=C(C=C2)N)OC)=O)CC(=O)OC)C1 | C21H23ClN2O4
reactant | sodium carbonate | 1.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | o-xylene dibromide | 1.87 g | [Br-].[Br-].C=1(C(=CC=CC1)C)C
reactant | sodium iodide | 2.42 g | [I-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 7-chloro-5-methoxycarbonylmethyl-1-[2-methoxy-4-(2-isoindolinyl)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.32 g | ClC=1C=CC2=C(C(CCCN2C(C2=C(C=C(C=C2)N2CC3=CC=CC=C3C2)OC)=O)CC(=O)OC)C1 | C29H29ClN2O4
